* ========================================================
* 12V LED Lamp Subcircuit - 3 Parallel Strings
* Terminals: A = Anode (+), K = Cathode (-)
* Internals: 3 parallel strings (each has 150 Ohm + 3x White LEDs)
* Current draw: ~60mA total at 12V DC (3 x ~20mA)
* ========================================================
.SUBCKT LED_12V_3_STRINGS A K

* --- String 1 ---
R1 A N11 150
D11 N11 N12 LED_WHITE
D12 N12 N13 LED_WHITE
D13 N13 K   LED_WHITE

* --- String 2 ---
R2 A N21 150
D21 N21 N22 LED_WHITE
D22 N22 N23 LED_WHITE
D23 N23 K   LED_WHITE

* --- String 3 ---
R3 A N31 150
D31 N31 N32 LED_WHITE
D32 N32 N33 LED_WHITE
D33 N33 K   LED_WHITE

* Generic White LED Model (Shared by all diodes)
.MODEL LED_WHITE D(IS=1E-20 N=2.2 RS=2.5 BV=5 IBV=10U CJO=35P XTI=3 EG=2.1)

.ENDS LED_12V_3_STRINGS
* ========================================================
